US06670447B2
Synthesis of N-benzoyl-L-alanyl-L-phenylalanine methyl ester (Compound No. 30)
L-Phenylalanine methyl ester hydrochloride (518 mg, 2.4 mmol) was suspended in tetrahydrofuran (12 mL), and at 0° C., N-methylmorpholine (242 mg, 2.4 mmol) was added, followed by stirring for 20 minutes. (S)-3-Benzoyl-4-methyl-2,5-oxazolidinedione (N-benzoyl-L-alanine-NCA (438 mg, 2 mmol) was added as crystals at 0° C. After the resulting mixture was stirred for 15 minutes, the mixture was allowed to rise in temperature to room temperature, at which the mixture was stirred for 15 minutes. The reaction mixture was poured into 1 N hydrochloric acid (25 mL), followed by extraction with ethyl acetate (25 mL). The organic layer was washed successively with a saturated aqueous solution of sodium hydrogencarbonate (25 mL) and a saturated aqueous solution of sodium chloride (25 mL), and was then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure. The resulting white solid was washed with hexane-ethyl acetate to afford the title compound (462 mg, 65%) as white crystals.

reactant | L-Phenylalanine methyl ester hydrochloride | 2.4 mmol, 518 mg | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methylmorpholine | 2.4 mmol, 242 mg | CN1CCOCC1 | C5H11NO
reactant | (S)-3-Benzoyl-4-methyl-2,5-oxazolidinedione | C(C1=CC=CC=C1)(=O)N1C(OC([C@@H]1C)=O)=O | C11H9NO4
reactant | N-benzoyl-L-alanine | C(C1=CC=CC=C1)(=O)N[C@@H](C)C(=O)O | C10H11NO3
reactant | hydrochloric acid | 1 N, 25 mL | Cl | ClH
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | N-benzoyl-L-alanyl-L-phenylalanine methyl ester | 462 mg, 65% | COC([C@@H](NC([C@@H](NC(C1=CC=CC=C1)=O)C)=O)CC1=CC=CC=C1)=O | C20H22N2O4
